US04902835
To a solution of 1,1,2-trifluoro-1,3-butadiene (8.0 g. 74 mmol) and calcium carbonate (50 mg) in 85 mL of dichloromethane at -40° C. in a round-bottom 250 mL flask was added a solution of phenylsulfenyl chloride (7.1 g, 49 mmol) in 20 mL of dichloromethane over 2 hours. The reaction mixture was left to stand overnight at room temperature and poured into ice water. The organic layer was washed with aqueous 5% sodium metabisulfite solution and brine, then dried over anhydrous magnesium sulfate. Evaporation of solvent followed by distillation gave 12.1 g (97.5%) of 3-chloro-4-phenylthio-1,1,2-trifluoro-1-butene as a light yellow oil, bp 84°-86° C. (1.0 mm Hg). 1H-NMR (300 MHz, CDCl3): δ 3.39(2H, d, J=8 Hz), 4.58(1H, ttd, J=1.5, 8, 33 Hz), 7.2-7.4(5H, phenyl protons). Mass spectrum: m/e=252,254 (M+). 19F-NMR (300 MHz, CDCl3): φ F3 =-11.8, F2 =116.7, F1 =99.3. J(F12 =64.5, J(F23)=111.2, J(F13)=33.0, J(F3H)=26.4.

reactant | 1,1,2-trifluoro-1,3-butadiene | 74 mmol, 8.0 g | FC(=C(C=C)F)F | C4H3F3
reactant | phenylsulfenyl chloride | 49 mmol, 7.1 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | dichloromethane | 85 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | calcium carbonate | 50 mg | C([O-])([O-])=O.[Ca+2]
product | 3-chloro-4-phenylthio-1,1,2-trifluoro-1-butene | 12.1 g, 97.5% | ClC(C(=C(F)F)F)CSC1=CC=CC=C1 | C10H8ClF3S
